US07700625B2
Trityl chloride (2.30 g, 8.23 mmol) was added to a solution of 5-bromo-2,3-dihydro-1H-isoindole (1.64 g, 8.23 mmol) and triethylamine (1.4 mL, 9.9 mmol) in dichloromethane (20 mL). After 18 hours the solvent was removed in vacuo, the residue taken up in ethyl acetate and washed with water (×2) and brine, dried (MgSO4) and concentrated. The crude material was purified by flash chromatography on silica eluting with 1% triethylamine/10% ethyl acetate/petrol to give 5-bromo-2-trityl-2,3-dihydro-1H-isoindole as a reddish-brown solid (3.10 g, 85%). 1H NMR (CDCl3) 7.91-7.84 (1H, m), 7.57 (6H, d), 7.45-7.41 (1H, m), 7.33-7.14 (9H, m), 6.95 (1H, d), 3.90 (2H, s), 3.86 (2H, s). MS: Ph3C+ 243.

reactant | Trityl chloride | 8.23 mmol, 2.30 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | 5-bromo-2,3-dihydro-1H-isoindole | 8.23 mmol, 1.64 g | BrC=1C=C2CNCC2=CC1 | C8H8BrN
reactant | triethylamine | 9.9 mmol, 1.4 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 5-bromo-2-trityl-2,3-dihydro-1H-isoindole | 3.10 g, 85% | BrC=1C=C2CN(CC2=CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H22BrN
